US07981460B2
Isovanillyl alcohol (447 mg, 2.90 mmol), 8-methylnonanoic acid (501 mg, 2.90 mmol) and Novozyme 435 (50 mg) were measured and placed in a flask (25 ml). The mixture was stirred with heating in an oil bath at 50° C. for 16 hr without plugging the flask. After stirring with heating for 2 to 3 hr, attachment of water onto the upper wall of the flask was observed. The reaction mixture was allowed to cool to room temperature, hexane (25 ml) was added, and Novozyme 435 and the insoluble material were removed by filtration. Hexane (25 ml) was added to the filtrate, and the mixture was washed with 5% aqueous citric acid solution (25 ml×2) and saturated brine (25 ml) and dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was developed by PTLC (n-hexane:ethyl acetate=2:1), and silica gel containing the object product was stirred with ethyl acetate (100 ml) for 30 min for extraction. The silica gel was filtered off, and the filtrate was concentrated under reduced pressure to give isovanillyl 8-methylnonanoate (0.72 g, yield 81.0%) as a colorless oil.

reactant | Isovanillyl alcohol | 2.90 mmol, 447 mg | C(C1=CC(O)=C(OC)C=C1)O | C8H10O3
reactant | 8-methylnonanoic acid | 2.90 mmol, 501 mg | CC(CCCCCCC(=O)O)C | C10H20O2
reactant | water | O | H2O
solvent | hexane | 25 ml | CCCCCC | C6H14
product | isovanillyl 8-methylnonanoate | 0.72 g, yield 81.0% | CC(CCCCCCC(=O)OCC1=CC(O)=C(OC)C=C1)C | C18H28O4
